US07173038B1
Using an analogous procedure to that described for the preparation of the starting material in Example 9, 7-benzyloxy-4-chloro-6-methoxyquinazoline (184 mg, 0.61 mmol), (prepared, for example, as described in WO 97/22596, Example 1, but the free base was generated prior to use), was reacted with 4-chloro-2,6-difluoroaniline (200 mg, 1.22 mmol) in the presence of sodium hydride (60%, 87 mg, 1.4 mmol) in DMF (8 ml) to give 7-benzyloxy-4-(4-chloro-2,6-difluoroanilino)-6-methoxyquinazoline (212 mg, 74%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 0.61 mmol, 184 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 4-chloro-2,6-difluoroaniline | 1.22 mmol, 200 mg | ClC1=CC(=C(N)C(=C1)F)F | C6H4ClF2N
reactant | sodium hydride | 1.4 mmol, 87 mg | [H-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(4-chloro-2,6-difluoroanilino)-6-methoxyquinazoline | 212 mg, 74% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1F)Cl)F)OC | C22H16ClF2N3O2
